US07863332B2
2.1 g (6.45 mmol, 1.5 eq) of methyl triphenylphosphoranylideneacetate are added to a solution of 900 mg of 4-bromo-3-methylbenzaldehyde in 5 ml of toluene. The reaction mixture is heated at 90° C. for 1 hour. The solvent is evaporated off and the residual oil is chromatographed on silica gel (8/2 heptane/ethyl acetate). 610 mg of methyl (E)-3-(4-bromo-3-methylphenyl)acrylate are obtained in oil form. Yield=55% over steps a, b and c.

reactant | methyl triphenylphosphoranylideneacetate | 6.45 mmol, 2.1 g, 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | 4-bromo-3-methylbenzaldehyde | 900 mg | BrC1=C(C=C(C=O)C=C1)C | C8H7BrO
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | methyl (E)-3-(4-bromo-3-methylphenyl)acrylate | 610 mg, Yield=55% | BrC1=C(C=C(C=C1)/C=C/C(=O)OC)C | C11H11BrO2
